US04506079
Heating of 4'-bromomethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane with piperidine at 80° C. for 3 hours affords 4'-piperidinomethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane in 75% yield.

reactant | 4'-bromomethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane | BrCC1OC2(OC1)C=1C=CN(C1CCC2Br)S(=O)(=O)C2=CC=C(C=C2)C | C18H19Br2NO4S
reactant | piperidine | N1CCCCC1 | C5H11N
product | 4'-piperidinomethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane | 75% yield | N1(CCCCC1)CC1OC2(OC1)C=1C=CN(C1CCC2Br)S(=O)(=O)C2=CC=C(C=C2)C | C23H29BrN2O4S
